US09126931B2
9-Hydroxy-6,6-dimethyl-11-oxo-6,11-dihydro-5H-benzo[b]carbazole-3-carbonitrile (Compound J5, 30 mg, 0.099 mmol), 4-bromo-butyric acid methyl ester (24.9 μl, 0.198 mmol) and cesium carbonate (64.5 mg, 0.198 mmol) were dissolved in DMA (0.20 ml) and stirred at room temperature for 4 hr. Water was added to the reaction solution, which was then extracted with diethyl ether. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate. The yellow solid obtained after concentration under reduced pressure was purified by silica gel column chromatography (methylene chloride/MeOH) to obtain 4-(3-cyano-6,6-dimethyl-11-oxo-6,11-dihydro-5H-benzo[b]carbazol-9-yloxy)-butyric acid methyl ester as an intermediate.

reactant | 9-Hydroxy-6,6-dimethyl-11-oxo-6,11-dihydro-5H-benzo[b]carbazole-3-carbonitrile | 0.099 mmol, 30 mg | OC1=CC2=C(C(C=3NC4=CC(=CC=C4C3C2=O)C#N)(C)C)C=C1 | C19H14N2O2
reactant | 4-bromo-butyric acid methyl ester | 0.198 mmol, 24.9 μl | COC(CCCBr)=O | C5H9BrO2
reactant | cesium carbonate | 0.198 mmol, 64.5 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | Water | O | H2O
solvent | DMA | 0.20 ml | CC(=O)N(C)C | C4H9NO
product | 4-(3-cyano-6,6-dimethyl-11-oxo-6,11-dihydro-5H-benzo[b]carbazol-9-yloxy)-butyric acid methyl ester | COC(CCCOC1=CC2=C(C(C=3NC4=CC(=CC=C4C3C2=O)C#N)(C)C)C=C1)=O | C24H22N2O4
